data_prep/sources/art_augmented_reactions.json
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)CF)c([Si](C)(C)C)c(C)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CF)c([Si](C)(C)C)c(C)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CF)c([Si](C)(C)C)c(C)c1=C", "products": "Cc1c2c(cc([Si](C)(C)CF)c1[Si](C)(C)C)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccc(F)c(OC)c1)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(F)c(OC)c1)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(F)c(OC)c1)C(C)C", "products": "COc1cc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)ccc1F"}, {"reactants": "COc1cc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)ccc1F", "products": "COc1cc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])ccc1F"}, {"reactants": "COc1cc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])ccc1F.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "COc1cc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])ccc1F"}, {"reactants": "COc1cc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])ccc1F", "products": "COc1cc([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)ccc1F.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "CC1(C)C2CCC1(C)C(O)(c1cc(F)ccc1F)C(=O)C2.[H+]", "products": "CC1(C)C2CCC1(C)C([OH2+])(c1cc(F)ccc1F)C(=O)C2"}, {"reactants": "CC1(C)C2CCC1(C)C([OH2+])(c1cc(F)ccc1F)C(=O)C2", "products": "CC12CCC(CC(=O)[C+]1c1cc(F)ccc1F)C2(C)C.O"}, {"reactants": "CC12CCC(CC(=O)[C+]1c1cc(F)ccc1F)C2(C)C", "products": "C[C+]1C2(c3cc(F)ccc3F)CCC(CC2=O)C1(C)C"}, {"reactants": "C[C+]1C2(c3cc(F)ccc3F)CCC(CC2=O)C1(C)C", "products": "CC1=C(c2cc(F)ccc2F)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2cc(F)ccc2F)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2cc(F)ccc2F)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2cc(F)ccc2F)CCC(C(=O)[OH2+])C1(C)C", "products": "C[C+]1C(c2cc(F)ccc2F)CCC(C(=O)O)C1(C)C"}, {"reactants": "C[C+]1C(c2cc(F)ccc2F)CCC(C(=O)O)C1(C)C", "products": "CC1(C)C2CCC(c3cc(F)ccc3F)C1(C)[OH+]C2=O"}, {"reactants": "CC1(C)C2CCC(c3cc(F)ccc3F)C1(C)[OH+]C2=O", "products": "CC1(C)C2CCC(c3cc(F)ccc3F)C1(C)OC2=O.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=CC2(F)C(OC)C1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=CC(F)C1(OC)CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=CC(F)C1(OC)CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=CC(F)C1(OC)CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=CC(F)C1(OC)CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=CC(F)C1(OC)CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "COc1c(F)cccc1C1(O)C(=O)CC2CCC1(C)C2(C)C.[H+]", "products": "COc1c(F)cccc1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C"}, {"reactants": "COc1c(F)cccc1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C", "products": "COc1c(F)cccc1[C+]1C(=O)CC2CCC1(C)C2(C)C.O"}, {"reactants": "COc1c(F)cccc1[C+]1C(=O)CC2CCC1(C)C2(C)C", "products": "COc1c(F)cccc1C12CCC(CC1=O)C(C)(C)[C+]2C"}, {"reactants": "COc1c(F)cccc1C12CCC(CC1=O)C(C)(C)[C+]2C", "products": "COc1c(F)cccc1C1=C(C)C(C)(C)C(C#[O+])CC1"}, {"reactants": "COc1c(F)cccc1C1=C(C)C(C)(C)C(C#[O+])CC1.O", "products": "COc1c(F)cccc1C1=C(C)C(C)(C)C(C(=O)[OH2+])CC1"}, {"reactants": "COc1c(F)cccc1C1=C(C)C(C)(C)C(C(=O)[OH2+])CC1", "products": "COc1c(F)cccc1C1CCC(C(=O)O)C(C)(C)[C+]1C"}, {"reactants": "COc1c(F)cccc1C1CCC(C(=O)O)C(C)(C)[C+]1C", "products": "COc1c(F)cccc1C1CCC2C(=O)[OH+]C1(C)C2(C)C"}, {"reactants": "COc1c(F)cccc1C1CCC2C(=O)[OH+]C1(C)C2(C)C", "products": "COc1c(F)cccc1C1CCC2C(=O)OC1(C)C2(C)C.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)cc1C", "products": "COc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)cc1C"}, {"reactants": "COc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)cc1C", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(OC)c(C)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(OC)c(C)c1", "products": "COc1ccc(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)cc1C"}]}
